US07691882B2
3-(3-(4-(4-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (7.00 mL) solution of (4-(4-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride (270 mg, 0.930 mmol) described in Manufacturing Example 43-1-5 and 3-ethynyl-pyridin-2-ylamine (40.0 mg, 0.339 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (189 μL, 1.36 mmol) at room temperature, which was stirred at room temperature for 4 hours. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:3→1:2) to obtain the title compound (28.9 mg, 20.6%).

reactant | tetrahydrofuran | 7.00 mL | O1CCCC1 | C4H8O
reactant | (4-(4-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 0.930 mmol, 270 mg | CC1=CC(=NC=C1)OCC1=CC=C(C=C1)CC(=NO)Cl | C15H15ClN2O2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.339 mmol, 40.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.36 mmol, 189 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-(4-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 28.9 mg, 20.6% | CC1=CC(=NC=C1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H20N4O2
